US07919504B2
tert-Butyl (S)-1-(5-(3-(methylamino)-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate.
The above mentioned tert-butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate was dissolved in 20 mL 2M THF solution of methanamine (20 mL, 40 mmol) in a microwave heating tube. The tube was heated at 120° C. for 10 minutes. The THF solution was mixed with 200 mL EtOAc. The organic phase was washed with water, twice with saturated aqueous ammonium sulfate twice, and dried over sodium sulfate. After removing the solvent, the product was used directly in the next step.

reactant | tert-butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H31F4N5O6S
reactant | methanamine | 40 mmol, 20 mL | CN | CH5N
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2M, 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl (S)-1-(5-(3-(methylamino)-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | CNC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H35F3N6O6S
